US05731477
Preparation of 4-difluoromethoxynitrobenzene
4-Nitrophenol (0.14 g, 1.0 mmol, Aldrich), methyl chlorodifluoroacetate (0.29 g, 2.0 mmol, Aldrich) and potassium carbonate (0.29 g, 2.1 mmol) were combined in dry DMF (0.5 mL) under an argon atmosphere. After stirring at 95°-100° C. for 0.5 h, the mixture was cooled to RT, ethyl acetate (20 mL) was added and the organic layer was washed three times with 10% NaOH. The organic extract was dried (MgSO4), filtered and evaporated. The residue was purified by flash chromatography (silica gel, 20% ether/hexanes) to provide the title compound as a white solid (0.12 g, 65%). mp 33°-35° C.

reactant | 4-Nitrophenol | 1.0 mmol, 0.14 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | methyl chlorodifluoroacetate | 2.0 mmol, 0.29 g | ClC(C(=O)OC)(F)F | C3H3ClF2O2
reactant | potassium carbonate | 2.1 mmol, 0.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 4-difluoromethoxynitrobenzene | 0.12 g, 65% | FC(OC1=CC=C(C=C1)[N+](=O)[O-])F | C7H5F2NO3
